US04685961
Preparation of 4-methoxy-6-methyl-2-(1,2,4-triazol-1-ylmethylamino)pyrimidine
With stirring, a mixture of 13.9 g (0.1 mole) of 2-amino-4-methoxy-6-methylpyrimidine, 7 g (0.1 mole) of 1,2,4,-triazole, 9.4 g (0.11 mole) of aqueous 35% formaldehyde and 1 g of acetic acid in 100 ml of methanol is refluxed for 11/2 hours. First a clear solution forms, from which the reaction product precipitates in crystalline form after a time. After the reaction mixture has cooled, the crystalline title compound is filtered with suction and dried. Yield: 14 g. Melting point: 191°-193° C.

reactant | 2-amino-4-methoxy-6-methylpyrimidine | 0.1 mole, 13.9 g | NC1=NC(=CC(=N1)OC)C | C6H9N3O
reactant | 1,2,4,-triazole | 0.1 mole, 7 g | N1N=CN=C1 | C2H3N3
reactant | formaldehyde | C=O | CH2O
reactant | acetic acid | 1 g | C(C)(=O)O | C2H4O2
solvent | methanol | 100 ml | CO | CH4O
product | 4-methoxy-6-methyl-2-(1,2,4-triazol-1-ylmethylamino)pyrimidine | COC1=NC(=NC(=C1)C)NCN1N=CN=C1 | C9H12N6O
